US09359308B2
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-4-methylpentanamide (70 mg, 0.261 mmol), 3-aminoquinoline (60 mg, 0.416 mmol), K2CO3 (60 mg, 0.434 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 100 C for 20 h. Water and EtOAc were added. Organic phase was separated, dried over Na2SO4, concentrated in vacuo to give (R)-2-(5-cyano-6-(quinolin-3-ylamino)pyrazin-2-ylamino)-4-methylpentanamide as a crude residue (131 mg).

reactant | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-4-methylpentanamide | 0.261 mmol, 70 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC(C)C)C#N | C11H14ClN5O
reactant | 3-aminoquinoline | 0.416 mmol, 60 mg | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | K2CO3 | 0.434 mmol, 60 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.040 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.044 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(5-cyano-6-(quinolin-3-ylamino)pyrazin-2-ylamino)-4-methylpentanamide | C(#N)C=1N=CC(=NC1NC=1C=NC2=CC=CC=C2C1)N[C@@H](C(=O)N)CC(C)C | C20H21N7O
